US07276606B2
(2,4-Difluoro-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone was prepared from phenanthridine, 2,4-difluorobenzoyl chloride, and indole according to GP 2. Yield, 25%. 1H-NMR (DMSO-d6): δ=6.18 (d, br., J=1.4 Hz, 1H), 6.34 (d, br., J≈5 Hz, 1H), 6.82 (t, J≈7 Hz, 1H), 6.99-7.18 (m, 5H), 7.23-7.28 (m, 1H), 7.32 (s, br., 1H), 7.39-7.59 (m, 4H), 7.85 (s, br., 1H), 7.94 (dd, J=7.9 Hz, J=1.2 Hz, 1H), 8.07 (d, J=7.6 Hz, 1H), 10.71 (s, 1H); (+)-ESI-MS: m/z=437 [M+H]+, 320 [M-indole+H]+.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 2,4-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | (2,4-Difluoro-phenyl)-[6-(1H-indol-3-yl)-6H-phenanthridin-5-yl]-methanone | FC1=C(C=CC(=C1)F)C(=O)N1C=2C=CC=CC2C2=CC=CC=C2C1C1=CNC2=CC=CC=C12 | C28H18F2N2O
